* /Volumes/Mountain Lion/Users/mackemint/Documents/Projekt/Pulse_repeater/Pulse_repeater.asc
V3 N002 0 5
R2 N001 N004 20k
XU2 0 N001 N002 0 N004 LT1006
R3 N001 N003 10k
A2 N004 0 0 0 0 N005 0 0 SCHMITT
V4 P001 0 SINE(0.675 1.35 1000)
R5 N009 N003 10k
R1 P001 N003 1k
A3 N005 0 0 0 0 N006 0 0 SCHMITT
XU1 NC_03 N007 N010 0 N008 LT1006
R4 N007 N008 20k
R6 N007 0 10k
B1 N009 0 V=2*white(2*pi*10k*Time)
.tran 5m
.lib LTC.lib
.backanno
.end
